US09376441B2
In a 25-mL, round-bottomed, single-necked flask was placed 6-bromo-3,3-dimethyl-1H-pyrrolo[3,2-b]pyridin-2(3H)-one (500 mg, 2.07 mmol) in DMF (5 mL). The mixture was cooled to 0° C. followed by an addition of NaH (60%, 99.55 mg, 2.49 mmol). The reaction mixture was stirred at 0° C. for 20 min. To this was added MeI (0.39 ml, 6.22 mmol) at 0° C. Then, it was slowly warmed to room temperature and stirred for 3 h. The reaction mixture was quenched with sat. NH4Cl (5 mL) and the organic layers were extracted with EtOAc (3×5 mL). The combined organic layers were washed with water (2×5 mL) and brine (1×5 mL), dried (Na2SO4), concentrated, and purified by flash chromatography (100% Hexane to 100% EtOAc) to give 455 mg (86%) of 6-bromo-1,3,3-trimethyl-1H-pyrrolo[3,2-b]pyridin-2(3H)-one.

reactant | 6-bromo-3,3-dimethyl-1H-pyrrolo[3,2-b]pyridin-2(3H)-one | 2.07 mmol, 500 mg | BrC=1C=C2C(=NC1)C(C(N2)=O)(C)C | C9H9BrN2O
reactant | NaH | 2.49 mmol, 99.55 mg | [H-].[Na+]
reactant | MeI | 6.22 mmol, 0.39 ml | CI | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-bromo-1,3,3-trimethyl-1H-pyrrolo[3,2-b]pyridin-2(3H)-one | 455 mg, 86% | BrC=1C=C2C(=NC1)C(C(N2C)=O)(C)C | C10H11BrN2O
